* C:\Users\user\Desktop\PowerLab\OutputCapacitanceAnalysis\CircuitAndScript\Cicuit2.asc
V1 N001 0 PULSE(0 5 0 1p 1p 1e-3 20e-3)
L1 VDD Vds 5µ Rser=60m
V2 VDD 0 350m
XU1 N001 Vds 0 GS66516T_L1V2_1
.tran 0 1.00007m 0.99999m 01n
.lib GaN_LTspice_GS66516T_L1V2_1.lib
.backanno
.end
